US04608079
A solution of 6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)furo[2,3-b]pyridine-5-carboxylic acid (1.7 g 0.056 mol) and 1.0 g (0.0072 mol) potassium carbonate in 200 mL 9:1 ethanol:water is added to 100 mg 5% palladium on carbon catalyst in a 500 mL pressure bottle. The bottle is fitted to a Parr hydrogenation apparatus, pressurized to 30 psi, with hydrogen, then shaken at room temperature for 10 hours. The catalyst is removed by filtration through a sintered glass funnel, and the filtrate concentrated in vacuo to 10 mL. Acidification of the residue to pH 2 gives a white precipitate which is removed by filtration, washed with water and air dried to give 1.0 g (63%) of 2,3-dihydro-6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)furo[2,3-b]pyridine-5-carboxylic acid as an off-white solid, mp 189°-192° C.

reactant | 6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)furo[2,3-b]pyridine-5-carboxylic acid | 0.056 mol, 1.7 g | C(C)(C)C1(N=C(NC1=O)C1=C(C=C2C(=N1)OC=C2)C(=O)O)C | C15H15N3O4
reactant | potassium carbonate | 0.0072 mol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | water | O | H2O
product | 2,3-dihydro-6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)furo[2,3-b]pyridine-5-carboxylic acid | 1.0 g, 63% | C(C)(C)C1(N=C(NC1=O)C1=C(C=C2C(=N1)OCC2)C(=O)O)C | C15H17N3O4
